US08557983B2
(Z)-5-(4-chlorophenyl)-2,3,6,7-tetrahydrooxepine-4-carbaldehyde
To a mixture of 4-chlorophenylboronic acid (6.10 g), EXAMPLE 314B (5.2 g), palladium(II) acetate (146 mg, 0.65 mmol), K2CO3 (13.5 g) and tetrabutylammonium bromide (10.5 g) was added water (200 mL). The mixture was stirred at 50° C. for 4 hours. The mixture was diluted with ethyl acetate (400 mL) and washed with water (3×) and brine and dried over Na2SO4. After filtration and concentration, the residue was loaded on a column and eluted with 5 to 20% ethyl acetate in hexane to give the pure product.

reactant | 4-chlorophenylboronic acid | 6.10 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 13.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 mL | O | H2O
catalyst | tetrabutylammonium bromide | 10.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 0.65 mmol, 146 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (Z)-5-(4-chlorophenyl)-2,3,6,7-tetrahydrooxepine-4-carbaldehyde | ClC1=CC=C(C=C1)\C\1=C(\CCOCC1)/C=O | C13H13ClO2
